US05360802
Step 1: 5-Cyclopentyl-1,3-dihydro-1-methyl-3(R,S)-[(benzyloxycarbonyl)amino]2H-1,4-benzodiazepine-2-one
To a solution of 5-cyclopentyl-1,3-dihydro-3(R,S)-[(benzyloxycarbonyl)amino]-2H-1,4-benzodiazepin-2-one (1.47 g, 3.91 mmol) in anhydrous dimethylformamide (40 ml) under nitrogen, cooled in an ice bath, was added sodium hydride (55% dispersion in oil, 178 mg, 4.08 mmol) in portions and the resulting mixture stirred for lb. Iodomethane (0.26 ml, 4.1 mmol) was then added and the mixture stirred for 30 min. The solvent was evaporated and the residue partitioned between dichloromethane (20 ml) and water (20 ml). The aqueous layer was re-extracted with dichloromethane (20 ml), the organic extracts were combined, dried (MgSO4), and evaporated. The residue was triturated with diethyl ether to afford the title compound (1.19 g, 78%) as a white solid. 1H NMR (360 MHz, CDCl3) δ 1.26 (1H, m), 1.46-2.00 (6H, m), 2.00-2.20 (1H, m), 3.30 (1H, m), 3.40 (3H, s), 5.08 (2H, d, J=1.4 Hz), 5.15 (1H, d, J=8 Hz.), 6.50 (1H, d, J=8 Hz), 7.24-7.62 (9H, m).

reactant | 5-cyclopentyl-1,3-dihydro-3(R,S)-[(benzyloxycarbonyl)amino]-2H-1,4-benzodiazepin-2-one | 3.91 mmol, 1.47 g | C1(CCCC1)C1=NC(C(NC2=C1C=CC=C2)=O)NC(=O)OCC2=CC=CC=C2 | C22H23N3O3
reactant | sodium hydride | 4.08 mmol, 178 mg | [H-].[Na+]
reactant | Iodomethane | 4.1 mmol, 0.26 ml | IC | CH3I
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 5-Cyclopentyl-1,3-dihydro-1-methyl-3(R,S)-[(benzyloxycarbonyl)amino]2H-1,4-benzodiazepine-2-one | 1.19 g, 78% | C1(CCCC1)C1=NC(C(N(C2=C1C=CC=C2)C)=O)NC(=O)OCC2=CC=CC=C2 | C23H25N3O3
